US04128658
[5-[4-[N,N-Dimethylamino]butyl]-2-furanyl]methyl ethanoate
A mixture of 5-[4-(dimethylamino)butyl]-2-furanmethanol (4.9 g), acetic anhydride (25 g) and fused and powdered sodium acetate (10 g) in benzene (25 ml) was stirred at room temperature for 24 hr. The reaction was diluted with water (100 ml) and extracted with ethyl acetate. The combined extracts were distilled to afford a clear colourless oil b.p. 100°, 0.5 mm Hg. Found: C, 65.62; H, 9.03; N, 5.95. Calc. for C13H21NO3 : C, 65.24; H, 8.85; N, 5.85%.

reactant | 5-[4-(dimethylamino)butyl]-2-furanmethanol | 4.9 g | CN(CCCCC1=CC=C(O1)CO)C | C11H19NO2
reactant | acetic anhydride | 25 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 10 g | C(C)(=O)[O-].[Na+]
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | [5-[4-[N,N-Dimethylamino]butyl]-2-furanyl]methyl ethanoate | C(C)(=O)OCC=1OC(=CC1)CCCCN(C)C | C13H21NO3
